US09212182B2
A flask was charged with perfluorophenyl 1-(4-bromo-5-chloro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (0.256 g, 0.419 mmol) and pyrimidin-4-amine (0.048 g, 0.503 mmol). A septum was attached and THF (2.096 ml) was added under N2 flow. The mixture was cooled to 0° C. A THF solution of lithium bis(trimethylsilyl)amide (0.880 ml, 0.880 mmol, 1 M) was added dropwise to give a brown solution with a tan precipitate. The solution was maintained at 0° C. for 20 min, and allowed to warm to rt and maintained for 2 h. The reaction mixture was partitioned between 1 N HCl (10 mL) and EtOAc (20 mL), the layers were separated and the aqueous layer was extracted with 1:1 MeOH:EtOAc (1×20 mL). The combined organic layers which were dried (Na2SO4) and concentrated to provide 1-(4-bromo-5-chloro-2-methoxyphenyl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide (0.219 g, 0.419 mmol), which was of sufficient purity for the subsequent step. m/z (ESI) 521.1 (M+H)+.

reactant | perfluorophenyl 1-(4-bromo-5-chloro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 0.419 mmol, 0.256 g | BrC1=CC(=C(C=C1Cl)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C22H10BrClF5NO5S
reactant | pyrimidin-4-amine | 0.503 mmol, 0.048 g | N1=CN=C(C=C1)N | C4H5N3
reactant | lithium bis(trimethylsilyl)amide | 0.880 mmol, 1 M, 0.880 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2.096 ml | C1CCOC1 | C4H8O
product | 1-(4-bromo-5-chloro-2-methoxyphenyl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide | 0.419 mmol, 0.219 g | BrC1=CC(=C(C=C1Cl)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NC=NC=C1)=O)OC | C20H14BrClN4O4S
